US05723464
(a) 2-Chloro-N-(2-pyridinyl)acetamide
Chloroacetylchloride (60 g, 0.53M) was added with stirring to a mixture of 2-aminopyridine (50 g, 0.53M) and diisopropylethylamine (75 ml, 0.53M) in dichloromethane (500 ml) keeping the temperature below 5° C. After the reaction mixture was warmed to room temperature it was filtered and washed with water. The organic layer was dried (MgSO4) and evaporated under reduced pressure to give 72.6 g of a brown solid.

reactant | Chloroacetylchloride | 0.53M, 60 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminopyridine | 0.53M, 50 g | NC1=NC=CC=C1 | C5H6N2
reactant | diisopropylethylamine | 0.53M, 75 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(2-pyridinyl)acetamide | 72.6 g | ClCC(=O)NC1=NC=CC=C1 | C7H7ClN2O
